US05997843
To the sodium salt of 2-nitroimidazole prepared above was added acetonitrile (50 ml), 15-crown-5-ether (3.5 ml, 14.3 mmol) and 4-bromo-2-methyl-2-butene (2 ml; 17.4 mmol). The mixture was stirred at RT for ca 16 h. and then the solvent was removed to leave a crude semi-solid which was purified by column chromatography on silica. The intermediate product, 1-(3-methyl-2-butenyl)-2-nitroimidazole (80% yield) was eluted using a mixture of petroleum ether (40-60)/ethyl acetate (ratio 4:1 respectively).

reactant | sodium | [Na] | Na
reactant | 2-nitroimidazole | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 4-bromo-2-methyl-2-butene | 17.4 mmol, 2 ml | BrCC=C(C)C | C5H9Br
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(3-methyl-2-butenyl)-2-nitroimidazole | 80% yield | CC(=CCN1C(=NC=C1)[N+](=O)[O-])C | C8H11N3O2
